US07612201B2
A mixture of 4-chloro-6-(4-piperazin-1-yl-1H-pyrazol-3-yl)-benzene-1,3-diol (43 mg, 0.146 mmol), cesium carbonate (48 mg, 0.146 mmol), 2-bromoethanol (0.025 ml, 0.35 mmol) and dimethylformamide (1 ml) was stirred at room temperature for 3 days. The mixture was evaporated to dryness and applied to a bond elute cartridge (5 g) with dichloromethane:methanol (49:1), then eluting with dichloromethane followed by dichloromethane:ethanol:ammonia (50:8:1 then 20:8:1) gave 4-chloro-6-{4-[4-(2-hydroxy-ethyl)-piperazin-1-yl]-1H-pyrazol-3-yl}-benzene-1,3-diol as a white solid (10 mg)

reactant | 4-chloro-6-(4-piperazin-1-yl-1H-pyrazol-3-yl)-benzene-1,3-diol | 0.146 mmol, 43 mg | ClC1=C(C=C(C(=C1)C1=NNC=C1N1CCNCC1)O)O | C13H15ClN4O2
reactant | cesium carbonate | 0.146 mmol, 48 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-bromoethanol | 0.35 mmol, 0.025 ml | BrCCO | C2H5BrO
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 4-chloro-6-{4-[4-(2-hydroxy-ethyl)-piperazin-1-yl]-1H-pyrazol-3-yl}-benzene-1,3-diol | 10 mg | ClC1=C(C=C(C(=C1)C1=NNC=C1N1CCN(CC1)CCO)O)O | C15H19ClN4O3
